US06410729B1
b. Ethyl 2-(4-fluorophenyl)-3-(4-pyridyl)-acrylate
Conc. sulfuric acid (2.2 ml) was added carefully to a suspension of 2-(4-fluorophenyl)-3-(4-pyridyl)-acrylic acid (6.7 g, 27.5 mmol) in ethanol (120 ml) and the mixture was heated at reflux for 24 h. The solvent was evaporated, the remainder was taken up in dichloromethane and the organic solution was washed with aqueous sodium hydrogencarbonate and water, followed by drying and evaporation. Flash column chromatography on silica gel (hexane-acetone=2:1) provided the pure title compound. MS (m/z): 271.8 (M+H)+; C16H14FNO2requir. 271.3 1H-NMR (CDCl3): 8.44, 6.88 (2m, each 2H, Pyrid.), 7.72 (s, 1H, CH═), 7.16, 7.06 (2m, each 2H, PhF), 4.28 (q, 2H, CH2), 1.28 (t; 3H, CH3).

reactant | sulfuric acid | 2.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-(4-fluorophenyl)-3-(4-pyridyl)-acrylic acid | 27.5 mmol, 6.7 g | FC1=CC=C(C=C1)C(C(=O)O)=CC1=CC=NC=C1 | C14H10FNO2
reactant | ethanol | 120 ml | C(C)O | C2H6O
product | Ethyl 2-(4-fluorophenyl)-3-(4-pyridyl)-acrylate | FC1=CC=C(C=C1)C(C(=O)OCC)=CC1=CC=NC=C1 | C16H14FNO2
